US05795985
without solvents (e.g. B. G. Kresze and H. Goetz, Chem. Berichte 90, 2161, 2174 (1957)), reaction of p-bromoacetophenone with piperidine under reflux with 19% yields of 1-(4-piperidinophenyl)ethanone; or

reactant | p-bromoacetophenone | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-(4-piperidinophenyl)ethanone | N1(CCCCC1)C1=CC=C(C=C1)C(C)=O | C13H17NO
